US07705155B2
Synthesis of 4-methoxy-3H-furo[3,4-c]pyridin-1-one
To a stirred solution of 19.40 g crude 3-hydroxy-2-isopropyl-4-methoxy-2,3-dihydro-pyrrolo[3,4-c]pyridin-1-one (87.29 mmol), as obtainable from example 14, in 300 mL isopropanol and 100 mL water were added at room temperature 5.160 g NaBH4 (130.9 mmol, 1.5 eq). After 3 h (<1.0% area 3-hydroxy-2-isopropyl-4-methoxy-2,3-dihydro-pyrrolo[3,4-c]pyridin-1-one), the reduction was quenched at 0° C. by addition of 34.0 mL acetone (474.4 mmol, 5.3 eq) and stirring was continued for 35 min at room temperature. The mixture was poured on 415 mL aqueous HCl (2.0 M, 829.3 mmol, 9.5 eq) at 0° C. and stirring was continued for 20 min at room temperature. The mixture was then heated to 50° C. overnight and was subsequently cooled to 0° C. Dipotassium hydrogen phosphate was added in order to adjust pH 3.0 and ca. 95% of the isopropanol were removed in a rotary evaporator (40° C./10 mbar). Water was added until the salts were dissolved and the mixture was extracted three times with 300 mL, in total 900 mL dichloromethane. The combined organic phases were dried over 50 g Na2SO4 (30 min) and filtered. The solid was washed with 100 mL dichloromethane. After evaporation of solvent in a rotary evaporator (40° C./25 mbar), the crude product (9.963 g, 69% w/w) was obtained as a light brown solid (HPLC purity 80.7% area). Purification was achieved by trituration with 30 mL ethyl acetate for 24 h at room temperature and subsequent addition of 60 mL heptane. The suspension was then allowed to stand for 24 h at 5° C. yielding the title product (5.486 g, 33.22 mmol, 40% w/w (68% over 2 steps), HPLC purity 95.1% area) as a beige solid.

reactant | 3-hydroxy-2-isopropyl-4-methoxy-2,3-dihydro-pyrrolo[3,4-c]pyridin-1-one | 87.29 mmol, 19.40 g | OC1N(C(C2=C1C(=NC=C2)OC)=O)C(C)C | C11H14N2O3
reactant | NaBH4 | 130.9 mmol, 5.160 g, 1.5 eq | [BH4-].[Na+]
reactant | acetone | 474.4 mmol, 34.0 mL, 5.3 eq | CC(=O)C | C3H6O
reactant | HCl | 829.3 mmol, 2.0 M, 415 mL, 9.5 eq | Cl | ClH
reactant | Dipotassium hydrogen phosphate | P(=O)(O)([O-])[O-].[K+].[K+]
solvent | isopropanol | 300 mL | C(C)(C)O | C3H8O
solvent | water | 100 mL | O | H2O
product | 4-methoxy-3H-furo[3,4-c]pyridin-1-one | 33.22 mmol, 5.486 g, 68% | COC1=NC=CC2=C1COC2=O | C8H7NO3
